US08754207B2
Preparation of CCI-779. Formula (I)
(160 mg) of 42-ester of rapamycin with 3-methyl-1,5-dioxaspiro[5.6]dodecane-3-carboxylic acid [IId6] was dissolved in 4 ml THF and was cooled it at 0-5° C. Subsequently, 0.5 ml 2N sulphuric acid was added and the reaction mass was stirred at 30-35° C. for 20 hrs. After completion of the reaction brine solution was added and extracted by ethyl acetate. Organic layer was separated and wash it with sodium bicarbonate solution and then by water. Dried by adding sodium sulfate and concentrate it on rotavapour to get colorless viscous oily product. Subsequently, n-hexane was added and stirred for 30 minute. White solid was precipitated, which was filtered, washed with n-hexane to get white solid product.

reactant | rapamycin | C[C@@H]1CC[C@H]2C[C@@H](/C(=C/C=C/C=C/[C@H](C[C@H](C(=O)[C@@H]([C@@H](/C(=C/[C@H](C(=O)C[C@H](OC(=O)[C@@H]3CCCCN3C(=O)C(=O)[C@@]1(O2)O)[C@H](C)C[C@@H]4CC[C@H]([C@@H](C4)OC)O)C)/C)O)OC)C)C)/C)OC | C51H79NO13
reactant | 3-methyl-1,5-dioxaspiro[5.6]dodecane-3-carboxylic acid | CC1(COC2(OC1)CCCCCC2)C(=O)O | C12H20O4
reactant | sulphuric acid | 2N, 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | n-hexane | CCCCCC | C6H14
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | CCI-779 | C[C@@H]1CC[C@H]2C[C@@H](/C(=C/C=C/C=C/[C@H](C[C@H](C(=O)[C@@H]([C@@H](/C(=C/[C@H](C(=O)C[C@H](OC(=O)[C@@H]3CCCCN3C(=O)C(=O)[C@@]1(O2)O)[C@H](C)C[C@@H]4CC[C@H]([C@@H](C4)OC)OC(=O)C(C)(CO)CO)C)/C)O)OC)C)C)/C)OC | C56H87NO16
